US05602246
Example 17b: 2-Fluoro-2',3',5'-tri-O-benzoyladenosine
A solution of 2-fluoroadenosine (0.30 g, 1.05 mmol), and benzoic anhydride (0.713 g, 3.15 mmol) and 4-di-methylaminopyridine (6 mg) in anhydrous pyridine (5.0 mL) was stirred at ambient temperature. After 4 hours, TLC (6:4 ethyl acetate:dichloromethane) showed a single new product. The reaction was quenched by adding water (5 mL) and the resulting suspension was concentrated to dryness under vacuum. The residue was suspended in toluene and reconcentrated under vacuum. The residue was partitioned between chloroform and saturated aqueous sodium bicarbonate, and the organic layer was washed sequentially with saturated sodium bicarbonate, water, and with saturated sodium chloride solution and then dried over magnesium sulfate. The dried solution was filtered and concentrated under vacuum. The desired product was isolated from the resulting residue by silica gel chromatography, by gradient elution with dichloromethane containing 0-50% ethylacetate to obtain 0.42 g (67% yield) of the title compound as a solid. 1H NMR (DMSO-d6, 300 MHz) δ 4.66 (dd, 1H), 4.76 (dd, 1H), 4.84 (q, 1H), 6.20 (t, 1H), 6.37 (t, 1H), 6.50 (d, 1H), 7.4-7.55 (m, 6H), 7.6-7.75 (m, 3H), 7.85-8.05 (m, 8H), 8.38 (S, 1H); FT-IR (KBr) 3350, 3188, 1729, 1642, 1602, 1267 cm-1.

reactant | 2-fluoroadenosine | 1.05 mmol, 0.30 g | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O4
reactant | benzoic anhydride | 3.15 mmol, 0.713 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-di-methylaminopyridine | 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-Fluoro-2',3',5'-tri-O-benzoyladenosine | FC=1N=C(C=2N=CN([C@H]3[C@H](OC(C4=CC=CC=C4)=O)[C@H](OC(C4=CC=CC=C4)=O)[C@@H](COC(C4=CC=CC=C4)=O)O3)C2N1)N | C31H24FN5O7
